US06872743B2
6-Methoxy-5,6,7,8-tetrahydronaphthalene-7-boronic acid
A −78° C. solution of 10.0 g (61.6 mmol) of 6-methoxy-5,6,7,8-tetrahydronaphthalene in 75 mL of THF was treated in a dropwise manner with 42.0 mL (67.2 mmol) of 1.6 M n-BuLi in hexanes. The mixture was stirred for 1 hr and was treated with 14.8 mL (64.1 mmol) of triisopropyl borate. The reaction was allowed to warm slowly to 0° C. and was stirred at this temperature for 0.5 hr. The reaction was quenched by the careful addition of 120 mL of aq 1N HCl. The layers were separated and the aqueous layer extracted with EtOAc (3×50 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to afford a white solid which was used in part B without further purification.

reactant | 6-methoxy-5,6,7,8-tetrahydronaphthalene | 61.6 mmol, 10.0 g | COC1CC=2C=CC=CC2CC1 | C11H14O
reactant | n-BuLi | 67.2 mmol, 1.6 M, 42.0 mL | [Li]CCCC
reactant | triisopropyl borate | 64.1 mmol, 14.8 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 6-Methoxy-5,6,7,8-tetrahydronaphthalene-7-boronic acid | COC1CC=2C=CC=CC2CC1B(O)O | C11H15BO3
